US08871756B2
2,2-Difluoro-N-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 56-1 in Scheme 23 by using 2,4-dichloro-6-methylquinazoline, 2,2-difluoropropane-1,3-diamine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide. MS obsd. (ESI+) [(M+H)+] 432, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (s, 1 H), 7.82-7.80 (d, 1 H), 7.74-7.69 (m, 2 H), 7.63-7.53 (m, 3 H), 5.40 (d, 1 H), 5.10 (m, 1 H), 4.75 (m, 1 H), 4.60-4.33 (m, 3 H), 3.63 (m, 4 H), 2.45 (s, 3 H).

reactant | 2,4-dichloro-6-methylquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 2,2-difluoropropane-1,3-diamine | FC(CN)(CN)F | C3H8F2N2
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
product | 2,2-Difluoro-N-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]propane-1,3-diamine | FC(CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O)(CN)F | C21H23F2N5OS
